US07691877B2
Benzyl-(2-chloro-5,6-dimethyl-3-nitro-pyridin-4-yl)-amine
2,4-Dichloro-5,6-Dimethyl-3-nitro-pyridine (2 g, 9 mmol) was dissolved in acetonitrile (100 mL) and benzylamine (1.0 mL, 9.5 mmol). Potassium carbonate (1.3 g, 9.5 mmol) was added in one portion, and the whole was heated at 55° C. for 16 h. The reaction mixture was diluted with EtOAc and washed with 50 mL water. The aqueous was re-extracted with EtOAc, the organics were combined and then dried over MgSO4 and evaporated to a dark red residue. This residue was purified by column chromatography on silica gel using 8:1 pentane:EtOAc as eluant to afford the title compound as a bright orange solid (1.2 g, 45%).

reactant | 2,4-Dichloro-5,6-Dimethyl-3-nitro-pyridine | 9 mmol, 2 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | benzylamine | 9.5 mmol, 1.0 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | Potassium carbonate | 9.5 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Benzyl-(2-chloro-5,6-dimethyl-3-nitro-pyridin-4-yl)-amine | 1.2 g, 45% | C(C1=CC=CC=C1)NC1=C(C(=NC(=C1C)C)Cl)[N+](=O)[O-] | C14H14ClN3O2
